### ISSUE TITLE
`decide` looks inside definitions marked `@[irreducible]`

### ISSUE THREAD

**Issue by hrmacbeth** [leanprover/lean4#2161]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

The tactic `decide` seems to be looking inside definitions marked `@[irreducible]`.  False statements involving `@[irreducible]` definitions fail slowly (presumably because `decide` is unfolding the definitions), and true statements involving `@[irreducible]` definitions can be proved.

### Steps to Reproduce

```lean
structure Foo where num : Nat deriving DecidableEq

namespace Foo

instance : OfNat Foo n := ⟨⟨n⟩⟩

/-! # Example 1 -/

@[irreducible] def mul (a b : Foo) : Foo :=
  let d := Nat.gcd a.num 1
  ⟨(a.num.div d) * (b.num.div d)⟩

example : ((Foo.mul 4 1).mul 1).mul 1 = 4 := by decide

/-! # Example 2 -/

@[irreducible] def add (a b : Foo) : Foo := ⟨a.num * b.num⟩

example : ((Foo.add 4 1).add 1).add 1 = 4 := by decide
```

**Expected behavior:** Expect both examples to fail quickly.

**Actual behavior:** Example 1 fails slowly (16s for me), and Example 2 succeeds.

**Reproduces how often:** 100%

### Versions

nightly-2023-03-15

### Additional Information

@digama0 and I encountered this while investigating the following slow example in Std:

```lean
import Std.Data.Rat.Basic

example : (4:Rat) * 1 * 1 + 4 = 0 := by decide -- fails, takes 3.17s
```
